US08012717B2
reaction of 2-deoxyuridine with 2-chloroadenine, in the presence of uridine phosphorylase (UPase) and purine nucleoside phosphorylase (PNPase) in an aqueous reaction medium possibly containing up to 40% v/v of an aprotic dipolar solvent, to obtain cladribine dissolved in said reaction medium; b) isolation of the cladribine by precipitation by means of concentration and alkalinisation of the reaction medium up to a pH of 11.5-12.5.

reactant | 2-deoxyuridine | C1[C@@H]([C@H](O[C@H]1N2C=CC(=O)NC2=O)CO)O | C9H12N2O5
reactant | 2-chloroadenine | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
product | cladribine | C1=NC2=C(N=C(N=C2N1[C@H]3C[C@@H]([C@H](O3)CO)O)Cl)N | C10H12ClN5O3
